US06432615B1
(1-1) Synthesis of 2-hexyldecylhydroxylamine
69 g of hydroxylamine hydrochloride, 30.5 g of 2-hexyldecylbromide, 0.5 g of EDTA and 500 ml of methanol were mixed and thereto 84 g of sodium hydrogencarbonate was added. The resulting mixture was heated under reflux for 3 hours. Then, the reaction mixture was concentrated, ethyl acetate and water were added thereto, the solution obtained was extracted by liquid separation, and the organic phase was dried over magnesium sulfate. The dried organic phase was concentrated and bis(2-hexyldecyl)hydroxylamine as a by-product was removed using silica gel column chromatography to produce the objective compound. The product was a colorless liquid. Yield: 10.5 g (40.9%).

reactant | hydroxylamine hydrochloride | 69 g | Cl.NO
reactant | 2-hexyldecylbromide | 30.5 g | C(CCCCC)C(CBr)CCCCCCCC | C16H33Br
reactant | EDTA | 0.5 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sodium hydrogencarbonate | 84 g | C(O)([O-])=O.[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 2-hexyldecylhydroxylamine | C(CCCCC)C(CNO)CCCCCCCC | C16H35NO
